US06677340B2
Step 3A N-(2-Fluoro-3-methoxyphenyl)-N′-(2,6-difluorobenzyl)urea
A solution of diphenylphosphoryl azide (3.19 g, 2.50 mL, 11.6 mmol) in toluene (3 mL) was added dropwise to a solution of 2-fluoro-3-methoxybenzoic acid (1.70 g, 10 mmol) and triethylamine (1.17 g, 1.62 mL, 11.6 mmol) in anhydrous bromobenzene (20 mL). The reaction mixture was stirred at room temperature for 30 minutes and heated at 95° C. for 20 minutes. The reaction was cooled to ambient temperature and a solution of 2,6-difluorobenzylamine (1.43 g, 10 mmol) in dichloromethane (5 mL) was added. The mixture was stirred at ambient temperature for half of an hour, filtered, and washed with dichloromethane and ether to give a white solid (2.36 g, 76.1%). 1H NMR (DMSO-d6) δ3.77 (s, 3H), 4.35 (d, J=5.4 Hz, 2H), 6.69-7.70 (m, 6H), 7.07 (br s, 1H), 8.29 (br s, 1H); MS (CI) m/z 311.0 (MH+).

reactant | diphenylphosphoryl azide | 11.6 mmol, 2.50 mL, 3.19 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-fluoro-3-methoxybenzoic acid | 10 mmol, 1.70 g | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
reactant | triethylamine | 11.6 mmol, 1.62 mL, 1.17 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzylamine | 10 mmol, 1.43 g | FC1=C(CN)C(=CC=C1)F | C7H7F2N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | bromobenzene | 20 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-Fluoro-3-methoxyphenyl)-N′-(2,6-difluorobenzyl)urea | 2.36 g, 76.1% | FC1=C(C=CC=C1OC)NC(=O)NCC1=C(C=CC=C1F)F | C15H13F3N2O2
